US04021229
Preparation of N-(1,1,2-trichloro-2-propylthio)-N-phenyl ethanesulfonamide
To a stirred, cooled solution of 18.5 g. of N-phenyl ethane sulfonamide in 10.1 g. of triethylamine and 200 ml. of chloroform was added at a temperature below 10° C. a solution of 1,1,2-trichloropropane-2-sulfonyl chloride (21.4 g.) in 50 ml. of chloroform. During the addition, an exothermic reaction took place. When the addition was complete, the mixture was allowed to cool to room temperature. The product was washed twice with water, dried over sodium sulfate and filtered and stripped. A viscous red oil was formed which on evaporation with benzene yielded a solid product of 29.6g. (92% of theory), m.p. 85°-86° C.

reactant | N-phenyl ethane sulfonamide | C1(=CC=CC=C1)NS(=O)(=O)CC | C8H11NO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1,1,2-trichloropropane-2-sulfonyl chloride | 21.4 g | ClC(C(C)(S(=O)(=O)Cl)Cl)Cl | C3H4Cl4O2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(1,1,2-trichloro-2-propylthio)-N-phenyl ethanesulfonamide | ClC(C(C)(SN(S(=O)(=O)CC)C1=CC=CC=C1)Cl)Cl | C11H14Cl3NO2S2
